US09228120B2
Additionally, for example when mixing hexamethyldisilazane as the silicon compound B and trifluoromethanesulfonic anhydride as the acid B, the trifluoromethanesulfonic anhydride is rapidly reacted to form trimethylsilyl trifluoromethanesulfonate as the acid A.

reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | trimethylsilyl trifluoromethanesulfonate | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
